US06440995B1
4-Chloro-2-(3,4-dimethyl-phenyl)-quinoline
The title compound, MS: m/e=267 (M+), was prepared from 4-chloro-quinoline and 4-bromo-o-xylene.

reactant | 4-chloro-quinoline | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | 4-bromo-o-xylene | BrC=1C=C(C(=CC1)C)C | C8H9Br
product | 4-Chloro-2-(3,4-dimethyl-phenyl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC(=C(C=C1)C)C | C17H14ClN
